US04579847
6-amino-3-benzylidene-1,2,3,9-tetrahydro-pyrrolo[2,1-b]quinazoline-9-one (2 g) was reacted with 2,3-dichloro-maleic anhydride (3.46 g) in tetrahydrofuran (130 ml) under stirring at the reflux temperature for 3 hours. After cooling the solution was evaporated in vacuo to dryness: the residue was suspended in hot ethyl acetate and filtered. Crystallization from CH2Cl2 -ethyl acetate gave 1 g of (Z)-3-[N-(3-benzylidene-9-oxo-1,2,3,9-tetrahydro-pyrrolo[2,1-b]quinazolin-6-yl)-aminocarbonyl]-2,3-dichloro-2-propenoic acid, m.p. 160°-165° C. (dec.),

reactant | 6-amino-3-benzylidene-1,2,3,9-tetrahydro-pyrrolo[2,1-b]quinazoline-9-one | 2 g | NC=1C=CC=2C(N3C(=NC2C1)C(CC3)=CC3=CC=CC=C3)=O | C18H15N3O
reactant | 2,3-dichloro-maleic anhydride | 3.46 g | Cl/C=1/C(=O)OC(\C1\Cl)=O | C4Cl2O3
solvent | tetrahydrofuran | 130 ml | O1CCCC1 | C4H8O
product | (Z)-3-[N-(3-benzylidene-9-oxo-1,2,3,9-tetrahydro-pyrrolo[2,1-b]quinazolin-6-yl)-aminocarbonyl]-2,3-dichloro-2-propenoic acid | 1 g | C(C1=CC=CC=C1)=C1CCN2C1=NC=1C=C(C=CC1C2=O)NC(=O)/C(=C(\C(=O)O)/Cl)/Cl | C22H15Cl2N3O4
